US04418208
(A) 3-Bromo-2,6-diethyl-4-methylaniline
Concentrated HCl (10 ml) is cooled to 5° C. in an ice-water bath and 1.63 g of 2,6-diethyl-4-methylaniline is added dropwise to give a slurry. Bromine (1.59 g) with 10 ml of concentrated HCl is added dropwise over 30 minutes. The reaction is allowed to stir for 3.75 hours and 25 ml of distilled water is added. After cooling for 1.0 hour, the reaction mixture is filtered and washed twice with 25 ml of cold distilled water. After drying under vacuum for about 16 hours, the crude solid (2.3 g) is dissolved in 100 ml of 10% NaOH and extracted with a 150 ml portion and with a 100 ml portion of methylene chloride. After drying over sodium sulfate, the methylene chloride solution is rotary evaporated to 1.9 g of crude product.

reactant | HCl | 10 ml | Cl | ClH
reactant | 2,6-diethyl-4-methylaniline | 1.63 g | C(C)C1=C(N)C(=CC(=C1)C)CC | C11H17N
reactant | Bromine | 1.59 g | BrBr | Br2
reactant | HCl | 10 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 3-Bromo-2,6-diethyl-4-methylaniline | BrC=1C(=C(N)C(=CC1C)CC)CC | C11H16BrN
